US06211199B1
57.2 Synthesis of 1-(3,4-dimethoxy-5-methanesulfonyloxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine
Combine 1-(3,4-dimethoxy-5-hydroxybenzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (0.95 g, 2.6 mmol) and triethylamine (1.0 mL, 7.7 mmol) in dichloromethane (15 mL). Cool the reaction mixture to −5° C. with an salt-ice bath. Slowly, add methanesulfonyl chloride (0.45 mL, 5.8 mmol). Warm to ambient temperature. After 18 hours, quench the reaction by the addition of ice. Separate the organic layer and extract with aqueous 1M hydrochloric acid solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain the title compound.

reactant | 1-(3,4-dimethoxy-5-hydroxybenzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 2.6 mmol, 0.95 g | COC=1C=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C1OC)O | C21H25NO5
reactant | triethylamine | 7.7 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 5.8 mmol, 0.45 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(3,4-dimethoxy-5-methanesulfonyloxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C1OC)OS(=O)(=O)C | C23H29NO9S2
